US05189036
N-[1-[4-(1H-Imidazol-1-yl)benzoyl]-4-piperidinyl]benzenepropanamide
1-[4-(1H-Imidazol-1-yl)benzoyl]-4-piperidinamine dihydrochloride (4.46 g, 13.0 mmol) and potassium carbonate (6.67 g, 52.0 mmol) are dissolved in methylene chloride (60 mL) and water (30 mL) and the mixture is cooled with an ice bath. A solution of 3-phenylpropionyl chloride (2.72 g, 16.2 mmol) in methylene chloride (15 mL) is added dropwise over 15 min, and the mixture is stirred at room temperature for 2 hr. The phases are separated, and the organic phase is washed with saturated aqueous sodium bicarbonate, dried over magnesium sulfate, and evaporated. Chromatography of the residue on silica gel followed by recrystallization from acetonitrile affords the title compound.

reactant | 1-[4-(1H-Imidazol-1-yl)benzoyl]-4-piperidinamine dihydrochloride | 13.0 mmol, 4.46 g | Cl.Cl.N1(C=NC=C1)C1=CC=C(C(=O)N2CCC(CC2)N)C=C1
reactant | potassium carbonate | 52.0 mmol, 6.67 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 30 mL | O | H2O
reactant | 3-phenylpropionyl chloride | 16.2 mmol, 2.72 g | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | N-[1-[4-(1H-Imidazol-1-yl)benzoyl]-4-piperidinyl]benzenepropanamide | N1(C=NC=C1)C1=CC=C(C(=O)N2CCC(CC2)NC(CCC2=CC=CC=C2)=O)C=C1 | C24H26N4O2
